US09102682B2
To 11.0 g (0.0464 mole) of benzyl N-[1-(hydroxymethyl)-2-methyl-propyl]carbamate in dioxane (100 mL) cooled to 0° C. was added diphenylphosphoryl azide 10.99 mL (1.1 eq) followed by the addition of DBU 8.32 mL (1.2 eq). The contents were allowed to warm to room temperature and stirred for 16 hrs. After the addition of ethyl acetate (300 mL) and water (100 mL), the organic layer was separated and then washed with satd. NaHCO3 (100 mL). The organic layer was then dried (magnesium sulfate) and then concentrated under vacuum. To this intermediate in DMSO (100 mL) was added sodium azide 7.54 g and the contents then heated to 90 degrees for 2 hrs. After addition of ethyl acetate and water the layers were separated. The organic layer was dried with magnesium sulfate followed by concentration under vacuum to afford an oil that was columned using hexane/ethyl acetate (0-70%) to afford benzyl N-[1-(azidomethyl)-2-methyl-propyl]carbamate 6.9 g as a colorless oil.

reactant | benzyl N-[1-(hydroxymethyl)-2-methyl-propyl]carbamate | 0.0464 mole, 11.0 g | OCC(C(C)C)NC(OCC1=CC=CC=C1)=O | C13H19NO3
reactant | diphenylphosphoryl azide | 10.99 mL, 1.1 eq | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 8.32 mL, 1.2 eq | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | water | 100 mL | O | H2O
product | benzyl N-[1-(azidomethyl)-2-methyl-propyl]carbamate | 6.9 g | N(=[N+]=[N-])CC(C(C)C)NC(OCC1=CC=CC=C1)=O | C13H18N4O2
